US06174884B1
6-(4-N-methylpiperazinosulphonyl-benzyl)-1-(4-decyl)-3-propyl-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one
6 mg (0.019 mmol) of 5-amino-3-propyl-1-(4-decyl)-1H-pyrazole-4-carboxamide and 20 mg (0.064 mmol) of methyl 4-N-methylpiperazinosulphonylphenylacetate are refluxed for 6 hours in 0.3 ml of a 0.5M ethanolic potassium tert-butoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate have been added, the phases are separated. Purification by chromatography gives 4 mg (36%) of a solid, Rf=0.16 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-propyl-1-(4-decyl)-1H-pyrazole-4-carboxamide | 0.019 mmol, 6 mg | NC1=C(C(=NN1C(CCC)CCCCCC)CCC)C(=O)N | C17H32N4O
reactant | methyl 4-N-methylpiperazinosulphonylphenylacetate | 0.064 mmol, 20 mg | CN1CCN(CC1)S(=O)(=O)C(C(=O)OC)C1=CC=CC=C1 | C14H20N2O4S
reactant | potassium tert-butoxide | 0.5M | CC(C)([O-])C.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(4-N-methylpiperazinosulphonyl-benzyl)-1-(4-decyl)-3-propyl-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one | 4 mg, 36% | CN1CCN(CC1)S(=O)(=O)C(C1=CC=CC=C1)C=1NC(C2=C(N1)N(N=C2CCC)C(CCC)CCCCCC)=O | C30H46N6O3S
